US07141567B2
KK. 2-Methoxycarbonyl-3-methyl-8-pivaloylaminoimidazo[1,2-a]pyridine
To a stirred solution of 30 g of 2-amino-3-pivaloylaminopyridine in 300 ml of dry tetrahydrofuran are added dropwise under argon 40 g of 3-bromo-2-oxobutanoic acid methylester. The brown solution is stirred at ambient temperature for 3 d. The resulting suspension is poured onto a mixture of icewater and ethyl acetate and the mixture is neutralised by adding 10 M sodium hydroxide solution. The organic phase is separated and the aqueous layer extracted two times with ethyl acetate. The combined organic phases are washed with water and dried over anhydrous sodium sulfate. The solvent is removed in vacuo and the blue coloured residue purified by column chromatography on silica gel to yield 35 g (78%) of a light brown solid (m.p. 132° C.).

reactant | 2-amino-3-pivaloylaminopyridine | 30 g | NC1=NC=CC=C1NC(C(C)(C)C)=O | C10H15N3O
reactant | 3-bromo-2-oxobutanoic acid methylester | COC(C(C(C)Br)=O)=O | C5H7BrO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | 10 M | [OH-].[Na+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 2-Methoxycarbonyl-3-methyl-8-pivaloylaminoimidazo[1,2-a]pyridine | 35 g, 78% | COC(=O)C=1N=C2N(C=CC=C2NC(C(C)(C)C)=O)C1C | C15H19N3O3
